US07115602B2
2-tert-Butyl-7-(4-tert-butylcyclohexyl)-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 377 mg (1.00 mmol) crude 4-tert-butyl-N-[1-(3-tert-butyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide, 184 mg (1.20 mmol) phosphoric trichloride are stirred at reflux for 3 hours, proportionate amounts of the solvents are used. The resulting mixture is separated into the pure cis- and trans-isomers via silica gel chromatography with eluent cyclohexane/ethylacetate 10/1, 5/1.

reactant | 4-tert-butyl-N-[1-(3-tert-butyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide | 1.00 mmol, 377 mg | C(C)(C)(C)C1CCC(CC1)C(=O)NC(CC)C=1C(NC(=NN1)C(C)(C)C)=O | C21H36N4O2
reactant | phosphoric trichloride | 1.20 mmol, 184 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-tert-Butyl-7-(4-tert-butylcyclohexyl)-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C)(C)(C)C1=NN2C(C(N1)=O)=C(N=C2C2CCC(CC2)C(C)(C)C)CC | C21H34N4O
